US08377930B2
Methyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-methoxyacetate
To a stirred solution of 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-methoxyacetic acid (18.3 mmol) in dry MeOH was added sulfuric acid (2.5 mL) dropwise and heated at 90° C. Stirring was then continued for 3 hours. The reaction mixture was then cooled and poured into saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic fractions were dried over Na2SO4, filtered, and concentrated under reduced pressure to yield an oil (3.7 g) that was not further purified.

reactant | 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-methoxyacetic acid | 18.3 mmol | O1C2=C(OCC1)C=C(C=C2)C(C(=O)O)OC | C11H12O5
reactant | sulfuric acid | 2.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | CO | CH4O
product | Methyl 2-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-methoxyacetate | 3.7 g | O1C2=C(OCC1)C=C(C=C2)C(C(=O)OC)OC | C12H14O5
